US06002008
N-[4-[(3-Bromophenyl)amino]-3-cyano-7-methoxy -6-quinolinyl]-2-propenamide
To a solution of 1.5 g (4.06 mmol) of 6-Amino-4-[(3-bromophenyl)amino]-7-methoxy-3-quinolinecarbonitrile and 0.45 ml of N-methylmorpholine in 30 ml of tetrahydrofuran was added at 0° C., under nitrogen, with stirring, 0.42 g (4.7 mmol) of acryloyl chloride of a 15 minute period. After 1 hour at 0° C., the solution was diluted with 200 ml ethyl acetate. The mixture was washed with saturated sodium bicarbonate solution and then dried over magnesium sulfate. The solvent was removed. The residue was chromatographed on silica gel eluted with chloroform-ethyl acetate mixtures to give 0.5 g of the tide compound as a light yellow solid powder: mass spectrum (electrospray, m/e): M+H 423.1,425.1

reactant | 6-Amino-4-[(3-bromophenyl)amino]-7-methoxy-3-quinolinecarbonitrile | 4.06 mmol, 1.5 g | NC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=CC=C1)Br | C17H13BrN4O
reactant | N-methylmorpholine | 0.45 ml | CN1CCOCC1 | C5H11NO
reactant | acryloyl chloride | 4.7 mmol, 0.42 g | C(C=C)(=O)Cl | C3H3ClO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-[4-[(3-Bromophenyl)amino]-3-cyano-7-methoxy -6-quinolinyl]-2-propenamide | 0.5 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)NC(C=C)=O)OC)C#N | C20H15BrN4O2
